US06218414B1
TAK-536:
TCV-116 or candesartan,

reactant | TCV-116 | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C5=NNN=N5)C(=O)OC(C)OC(=O)OC6CCCCC6 | C33H34N6O6
reactant | candesartan | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C=5NN=NN5)C(=O)O | C24H20N6O3
product | TAK-536 | CCOC1=NC=2C=CC=C(C2N1CC=3C=CC(=CC3)C=4C=CC=CC4C=5N=C(ON5)O)C(=O)O | C25H20N4O5
